US09023847B2
181. 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid (2-o-tolyl-ethyl)-amide
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide using 2-methylphenethylamine instead of benzylamine and obtained in 39% yield (HPLC: 95%, RT: 6.67 min). 1H NMR (DMSO-d6) 11.98 (br s, 1H), 11.43 (s, 1H), 8.48 (d, J=5.5 Hz, 1H), 8.42-8.36 (m, 2H), 7.76 (d, J=5.5 Hz, 1H), 7.37 (dd, J=3.3, 2.2 Hz, 1H), 7.18-7.10 (m, 4H), 6.46 (dd, J=3.7, 1.8 Hz, 1H), 3.47-3.43 (m, 2H), 2.86 (t, J=7.9 Hz, 2H), 2.36 (s, 3H); MS (m/z) 378 [M+H]+.

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C18H15N5OS
reactant | 2-methylphenethylamine | CC1=C(CCN)C=CC=C1 | C9H13N
product | 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid (2-o-tolyl-ethyl)-amide | 39% yield | C1(=C(C=CC=C1)CCNC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2)C | C20H19N5OS
